US04110473
Eight parts of 3-chloro-2-n-dodecyl-1,4-naphthoquinone were added in one portion to a solution of 0.54 parts of sodium metal dissolved in 100 parts of ethyl alcohol at ambient temperature. The resulting dark suspension was heated at reflux for two hours. Excess ethyl alcohol was removed in vacuo and the dark residue was recrystallized from 2-propanol to yield 7.6 parts of 2-n-dodecyl-3-ethoxy-1,4-naphthoquinone, m.p. 36°-38° C.

reactant | 3-chloro-2-n-dodecyl-1,4-naphthoquinone | ClC1=C(C(C2=CC=CC=C2C1=O)=O)CCCCCCCCCCCC | C22H29ClO2
reactant | sodium | [Na] | Na
reactant | ethyl alcohol | C(C)O | C2H6O
product | 2-n-dodecyl-3-ethoxy-1,4-naphthoquinone | C(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1OCC)=O)=O | C24H34O3
